US04772600
2-(3-Chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid
A mixture of 2-(3-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid ethyl ester (6.0 g, 0.019 mole), sodium hydroxide pellets (0.9 g, 0.023 mole), and 50 ml of ethanol-water (2:1) was refluxed for 1 hour. The reaction mixture was cooled and the ethanol evaporated in vacuo. The residual aqueous mixture was diluted with water (40 ml) and extracted with diethyl ether (2×25 ml). The aqueous portion was acidified with concentrated hydrochloric acid to a pH of 5-6. After precipitation was complete, the solid was collected by filtration, giving 5.9 g (100%). Recrystallization from ethanol gave 4.7 g of cream colored needles, mp 214°-216° C.

reactant | 2-(3-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid ethyl ester | 0.019 mole, 6.0 g | C(C)OC(CN1C(=NC=2C1=NC=CC2)C2=CC(=CC=C2)Cl)=O | C16H14ClN3O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol water | 50 ml | C(C)O.O
product | 2-(3-Chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid | ClC=1C=C(C=CC1)C1=NC=2C(=NC=CC2)N1CC(=O)O | C14H10ClN3O2
